US04255182
Preparation of N-[5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazol-2-yl]-N'-[2,2-dimethyl-2-(4-methyl-1,3-dioxolan-2-yl)ethyl]-N'-methylurea
5-(N,N-Dimethylaminosulfonyl)-1,3,4-thiadiazol-2-yl isocynate dimer (6 grams) N-[2,2-dimethyl-2-(4-methyl-1,3-dioxolan-2-yl)ethyl]methylamine (6 grams) and ethyl acetate (20 ml) are charged into a glass reaction vessel fitted with a mechanical stirrer. The reaction mixture is heated on a steam bath for a period of about 2 hours. Solvent is then stripped off using a rotary evaporator to yield the desired product N-[5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazol-2-yl]-N'-[2,2-dimethyl-2-(4-methyl-1,3-dioxolan-2-yl)ethyl]-N'-methylurea as the residue.

reactant | 5-(N,N-Dimethylaminosulfonyl)-1,3,4-thiadiazol-2-yl isocynate | CN(S(=O)(=O)C1=NN=C(S1)N=C=O)C | C5H6N4O3S2
reactant | N-[2,2-dimethyl-2-(4-methyl-1,3-dioxolan-2-yl)ethyl]methylamine | 6 grams | CC(CNC)(C1OCC(O1)C)C | C9H19NO2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-[5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazol-2-yl]-N'-[2,2-dimethyl-2-(4-methyl-1,3-dioxolan-2-yl)ethyl]-N'-methylurea | CN(S(=O)(=O)C1=NN=C(S1)NC(=O)N(C)CC(C1OCC(O1)C)(C)C)C | C14H25N5O5S2
